US05559133
Add 5 g of 2-chloro-4-methoxyphenol to a mixture of 17 g of α,α'-dibromo-p-xylene to a stirred mixture of 2.5 g of 50:50 (w/w) NaOH:H20 and 50 mL of DMF. Stir the so-formed mixture for 4 hours. Partition the reaction mixture with methylene chloride and water. Separate the organic layer and remove the solvent by rotary evaporation to obtain a solid residue. Purify the residue on a silica gel chromatography column using pure hexane to pure methylene chloride as the eluants to provide 8 g of 1-[4-bromomethylbenzyloxy]-2-chloro-4methoxyphenyl ether.

reactant | 2-chloro-4-methoxyphenol | 5 g | ClC1=C(C=CC(=C1)OC)O | C7H7ClO2
reactant | α,α'-dibromo-p-xylene | 17 g | BrCC1=CC=C(C=C1)CBr | C8H8Br2
reactant | NaOH | 2.5 g | [OH-].[Na+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 1-[4-bromomethylbenzyloxy]-2-chloro-4methoxyphenyl ether | 8 g | BrCC1=CC=C(COC2(C(C=C(C=C2)OC)Cl)OC2(C(C=C(C=C2)OC)Cl)OCC2=CC=C(C=C2)CBr)C=C1 | C30H30Br2Cl2O5
